Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12],-0.7385174163
[H:1][O:2][C:3][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.71915117442
[C:6]([H:7])=[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-5.3302911874
[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-8.52641470835
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:5].[O:1]=[C:2]([H:3])[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],3.9411787491800014
[C:6]([H:7])([H:8])=[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9][H:10],-2.54039853428
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[H:11],4.63943154518
[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7][H:8]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-6.92036687975
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:3],4.984383014980001
[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-5.995002277359999
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3](=[C:4])[O:12][H:13]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13],-4.5431263155
[H:1][O:2][C@:3]([H:4])([O:5])[C:11]([C:6]([H:7])=[C:8]([H:9])[H:10])([H:12])[H:13]>>[H:1][O:2][C@:3]1([H:4])[O:5][C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]1([H:12])[H:13],0.0268147695206
[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6]#[C:7][H:8]>>[C:1]#[C:2][C@:3]([O:4])([H:5])[C:6]#[C:7][H:8],-1.88356198392
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],5.27587246276
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]#[C:8][H:9]>>[C:5][O:6][C:7]#[C:8][H:9].[H:1][C:2]#[C:3][H:4],1.08742535773
[O:1][O:2]/[C:3]([H:4])=[C:5](/[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3][H:4],5.6494973903600005
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]1[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.0724467402
[H:1][C:2]#[C:3][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.89922340951
[C:5]([H:6])#[C:10][H:11].[H:1][C:2](/[C:3]([H:4])=[C:7]/[O:8][H:9])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13],0.0426919793994999
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],1.21821400593
[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.59632770882
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],1.20109092374
[C:1]#[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[C:8]([H:9])([H:10])[H:11],1.93784585195
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:4].[O:1]=[C:2]=[C:3][O:5][C:6][C:7]([H:8])([H:9])[H:10],4.640898416000001
[H:1][O:2][C:3]/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:6])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:5][C:7]([H:8])([H:9])[H:10],3.83902346171
[H:1][C:2]([H:3])[C@:4]1([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.942816941029
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5],4.85763062112
[H:1][C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2],5.85792881263
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8],1.89856060273
